US07446122B2
COMPOUND 17: 3-[1-ETHYL-1-(2-HYDROXY-ETHYL)-6-ISOPROPYL-1,3,4,9-TETRAHYDRO-PYRANO[3,4-b]INDOL-8-YL]-BENZALDEHYDE
The title compound is prepared in a manner analogous to Example 1, except using 2-(8-bromo-1-ethyl-6-isopropyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol 1-yl)-ethanol and 3-formylphenylboronic acid in step 1.F.

reactant | 2-(8-bromo-1-ethyl-6-isopropyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol 1-yl)-ethanol | BrC=1C=C(C=C2C3=C(NC12)C(OCC3)(CC)CCO)C(C)C | C18H24BrNO2
reactant | 3-formylphenylboronic acid | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
product | 3-[1-ETHYL-1-(2-HYDROXY-ETHYL)-6-ISOPROPYL-1,3,4,9-TETRAHYDRO-PYRANO[3,4-b]INDOL-8-YL]-BENZALDEHYDE | C(C)C1(OCCC2=C1NC1=C(C=C(C=C21)C(C)C)C=2C=C(C=O)C=CC2)CCO | C25H29NO3
